Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My mind spiraled and I thought of things that
would validate me killing myself." 

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
"Patient is a ___ ___ student with no past medical or
psychiatric history who self-presented to the ED for evaluation
in the setting of worsening depression and SI with plan to jump
out of his apartment window.

The patient states that he has felt depressed "for years" though
believes it has worsened acutely over the past several months,
complaining of low mood, apathy, amotivation, lack of
concentration, insomnia, fatigue, and fluctuating appetite.  The
patient endorses near daily marijuana use up until last week,
having noticed that he needed to smoke increasing amounts of
marijuana in order to stave off feelings of anxiety and
"emptiness", using marijuana to "fill a void" but realizing that
this was no longer financially feasible.  In helping him to feel
"normal" he notes that marijuana allowed him to focus on his
coursework and observed that others had commented on how they
preferred spending time with him while high because he did not
appear so "subdued".  He adds that he has noticed that his 
music,
which he continues to enjoy but has recently had increased
difficulty composing, has "mended" with marijuana, and he does
not want his art or his "happiness" to be influenced by
substance. 

While he has not noticed cravings for marijuana he does believe
that his anxiety has worsened acutely as the patient has
decreased his use, complaining of a "feeling of anger? 
tightness"
in his chest which on occasion feels so overwhelming that it
causes him to hyperventilate, prompting him to hit himself in
order to alleviate the tension.  The patient reports that his
anxiety has fluctuated in severity over the course of the last
several months but notices that the frequency with which he hits
himself (in the head, in the ribs, on the thighs) is increasing. 

Denies symptoms of mania or psychosis.

He complains that he has "always" thought about suicide and has
in the past contemplated multiple plans, his love and concern 
for
others barring him from following through, reluctant to expose
anyone "to that kind of pain"; despite this, he notes that he 
has
begun to ruminate on thoughts of suicide, especially at night
time, when he tends to have a difficult time falling asleep. 
Despite his consideration of multiple plans he says that he has
most recently contemplated jumping out of his ___ floor window,
or throwing himself off a bridge, perceiving this to be the most
highly lethal of all feasible methods noting that he "doesn't
want anyone to take [him] to the hospital".  

The patient cannot articulate what caused him to seek 
psychiatric
care this evening but states that he felt "bad about [him]self"
when snubbed by another classmate who he had tried to help in
lecture- this caused him to ruminate on all of the ways in which
he is "bad" and undeserving of happiness and, fearing "what 
would
happen", presented to the ED.  Concerningly, though the patient
does not appear to have clear intent he does communicate that he
feels as though his life will soon end, finding it increasingly
difficult to imagine life progressing past the next few weeks. 
Per patient, both his mother and girlfriend are aware of his
presentation and supportive of his desire to seek mental health. 

He notes that he has recently been communicating to each that he
"need[s] to see a doctor", sensing that his symptoms were
becoming too much to control."

Course in Emergency Department: Pt was in good behavioral 
control
and no standing medications were given. 

On arrival to the unit, the patient was pleasant, calm and
cooperative with interview. He reported that he wanted help and
signed a CV, which was accepted. He confirmed the above history
and discussed the recent worsening of his social anxiety and
depression with thoughts of SI. He reported thoughts of SI
wherever he was (i.e. plan to throw himself out window of his
room at school, or plan to use other methods when in other 
places
where other methods were available), but felt able to maintain
his safety while on the unit and reported that he was glad he 
was
finally getting help. 

 
Past Medical History:
Past psychiatric history: 
Hospitalizations: Denies
Current treaters and treatment: None
Medication and ECT trials: None
Self-injury: Endorses history of hitting himself but denies 
other
forms of SIB
Harm to others: Denies
Access to weapons: Denies

No past medical history
 
Social History:
Substance use history: As per Dr. ___ ___ ED Consult
Note, discussed with patient and updated as indicated:
Smoking marijuana since the age of ___, at one point months ago
smoking ___ grams daily, states that he has recently attempted
to quit, last use one week ago.  Vapes (3 mg nicotine) daily. 
Drinks socially, one beverage once weekly.
States that when abroad in ___ used to drink more, even
when alone, but that he has been trying to cut back since
returning to ___. 

Personal and Social History: ___
Family History:
Family psychiatric history: As per Dr. ___ ___ ED
Consult Note, discussed with patient and updated as indicated:
Father with PTSD (served in ___ War), mother with depression
 
Physical Exam:
Physical Examination:
VS:  ___ 1544 Temp: 98.6 PO BP: 117/72 HR: 76 RR: 16 O2 
sat:
99% 
___ 1224 RASS: 0 Pain Score: ___ 

General- Young male in NAD
Skin- No lesions or rashes
HEENT- PERRLA, EOMI, NC/AT
Neck and Back- full ROM
Lungs- CTA b/l, no w/r/r
CV- RRR, no m/r/g
Abdomen: Soft, NT/ND, normal BS present
Extremities- no cyanosis or edema
Neuro-
CN: 
     pupils symmetry and responsiveness to light and
accommodation: PERRLA
     visual fields: full to confrontation
     EOMI 
     facial sensation to light touch in all 3 divisions: intact
     facial symmetry on eye closure and smile: intact
     hearing bilaterally to rubbing fingers: intact
     phonation: intact
     head turning and shoulder shrug ___ b/l
     tongue: symmetric, full strength 
 
Motor:
       Delt:C5  Bic:C6   Tri:C7   Wr ext:C6   Fing ext:C7
Left      ___    ___     ___       ___         ___    
Right     ___    ___     ___       ___         ___   
        IP:   Quad:    Hamst:   Dorsiflex:   ___:   Pl.flex
Left   ___    ___           ___       ___     ___     ___
Right    ___    ___           ___       ___     ___     ___

Sensation: Intact to light touch throughout
Coordination:
     Finger-nose-finger intact with no dysmetria bilaterally
     Fine finger tapping intact with no dysmetria
 
Gait: within normal limits

Neuropsychiatric Examination:
  *Appearance: Appears stated age, with long hair, glasses,
wearing hospital gown
  Behavior: Calm, pleasant, cooperative with interview
  *Mood and Affect: "Depressed"/ full range, at times euthymic
  *Thought process: Linear, goal directed, no LOA
  *Thought Content: SI as per HPI, denies HI, denies AVH
  *Judgment and Insight: fair/fair
  Cognition:
    *Attention, *orientation, and executive function: Attentive
to interview, oriented to place, self, situation
    *Memory: Intact to recent and remote events
    *Fund of knowledge: consistent with level of education
    *Speech: Regular rate, rhythm and volume, normal prosody
    *Language: Fluent ___

 
Pertinent Results:
___ 12:05AM   GLUCOSE-93 UREA N-13 CREAT-0.7 SODIUM-141 
POTASSIUM-3.7 CHLORIDE-105 TOTAL CO2-20* ANION GAP-16
___ 12:05AM   ALT(SGPT)-16 AST(SGOT)-17 LD(LDH)-175 ALK 
PHOS-50 TOT BILI-0.2
___ 12:05AM   ALBUMIN-4.5 CHOLEST-186
___ 12:05AM   VIT B12-582
___ 12:05AM   TRIGLYCER-210* HDL CHOL-55 CHOL/HDL-3.4 
LDL(CALC)-89
___ 12:05AM   TSH-1.6
___ 12:05AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 12:05AM URINE  HOURS-RANDOM
___ 12:05AM URINE  HOURS-RANDOM
___ 12:05AM   WBC-7.6 RBC-5.29 HGB-15.6 HCT-44.7 MCV-85 
MCH-29.5 MCHC-34.9 RDW-12.8 RDWSD-38.9
___ 12:05AM   NEUTS-53.8 ___ MONOS-7.7 EOS-2.2 
BASOS-0.7 IM ___ AbsNeut-4.11 AbsLymp-2.69 AbsMono-0.59 
AbsEos-0.17 AbsBaso-0.05
___ 12:05AM   PLT COUNT-234
___ 12:05AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:05AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
 
Brief Hospital Course:
HOSPITAL COURSE SECTION OF DISCHARGE SUMMARY
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He was also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
#) Major Depressive Disorder, Social Anxiety disorder, history 
of trauma
The patient presented with symptoms of depression including low 
mood, apathy, amotivation, lack of concentration, insomnia, 
fatigue, and fluctuating appetite, as well as feeling 
overwhelmed and hitting himself, and having thoughts of suicide. 
He also endorsed symptoms of social anxiety, and a history of 
trauma as a child. He was provided individual and group 
psychotherapy aimed at exploring his history and improving 
coping skills. After discussion with the patient and his mother 
regarding medication choices, he was started on Wellbutrin at a 
dose of 150 mg QAM. He tolerated this well, though reported some 
difficulty sleeping the night prior to discharge. He was also 
provided with PRN ramelteon for insomnia, with mild effect (he 
takes melatonin PRN for insomnia at home).  At the time of 
discharge, he denied SI, expressed intention to follow up with 
his scheduled appointments, was future-oriented, and reported 
that he would feel comfortable seeking help or returning to the 
ED if thoughts of suicide re-emerged. 

3. SUBSTANCE USE DISORDERS:
#)Counseling regarding substance use cessation (alcohol, 
nicotine, and marijuana) was provided. Patient declined nicotine 
replacement therapy.

4. MEDICAL
#)Flu vaccine - Patient received the flu vaccine on ___
#)No chronic medical issues. 
#)Constipation - Patient was provided PRN medications for 
constipation, which resolved the same day he reported it. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient often attended these groups that focused on teaching 
patients various coping skills and was visible in the milieu, 
interacting with other patients. He often volunteered to play 
music with other patients and noted that he enjoyed helping 
others. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
The patient's mother was contacted, provided information and was 
involved in the patient's care. 
___ was notified of his admission. 
The patient's girlfriend visited him frequently while he was 
here. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Wellbutrin, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon static risk factors 
including history of abuse, history of substance abuse, male 
gender, age, and modifiable risk factors including SI with plan 
and acute depressive and anxiety symptoms at the time of 
admission. These factors were addressed through the provision of 
individual, group and milieu therapy aimed at improving coping 
skills, as well as being started on antidepressant medication.  
Finally, the patient is being discharged with many protective 
risk factors, including good social support from girlfriend, no 
longer having SI, and being help-seeking and future oriented.   
Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Melatin (melatonin) 3 mg oral QHS:PRN insomnia 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 150 mg PO QAM depression/ADD 
RX *bupropion HCl 150 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 
2.  Melatin (melatonin) 3 mg oral QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder
Social anxiety disorder

 
Discharge Condition:
BP  119/80 HR 81  O2  99   RR 16 T 97.7 BMI: 22
 Neurological:
    *station and gait: within normal limits
    *tone and strength: can move all extremities at least
antigravity
    cranial nerves: no facial asymmetry noted
    abnormal movements: none noted
  *Appearance: Long hair, wearing glasses, appears stated age
  Behavior: Pleasant, calm, cooperative with interview
  *Mood and Affect: 'Tired.' /Euthymic, mood congruent
  *Thought process: Linear, goal directed, no LOA
  *Thought Content: Denies SI, denies HI, no AVH, future 
oriented
  *Judgment and Insight: fair/fair
  Cognition:
    *Attention, *orientation, and executive function: attentive
to interview, oriented to self, place, situation
    *Memory: Intact to recent and remote events
    *Fund of knowledge: appropriate with level of education
    *Speech: Regular rate, regular rhythm, normal prosody 
    *Language: Fluent ___

On the discharge day, Mr. ___ shared that he feels definitely 
better. He said:"I feel better...looking forward to being 
outside". He shared that he didn't have thoughts of death for 
five days. He shared about some upcoming stressors: he is behind 
with his class work; also, his girlfriend is dealing with 
depression. However, Mr. ___ feels ready for the discharge. He 
expressed understanding about appropriate steps to get help 
should his condition worsen.
 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___